US08809333B2
To a solution of ethyl (2R)-4-{4-[(3-cyanophenyl)ethynyl]-1H-pyrazol-1-yl}-2-methyl-2-(methylsulfonyl)butanoate (0.415 g, 1.04 mmol) in THF-H2O (20 mL:10 mL) was added lithium hydroxide (0.249 g, 10.4 mmol, 10 eq). The reaction mixture was allowed to stir at room temperature overnight. The reaction mixture was then acidified with 1M HCl and extracted with ethyl acetate. The organic layers were combined, dried over sodium sulfate, filtered, and concentrated to give (2R)-4-{4-[(3-cyanophenyl)ethynyl]-1H-pyrazol-1-yl}-2-methyl-2-(methylsulfonyl)butanoic acid (0.360 g, 93% yield) as a white solid. LC-MS M+H+372.1.

reactant | ethyl (2R)-4-{4-[(3-cyanophenyl)ethynyl]-1H-pyrazol-1-yl}-2-methyl-2-(methylsulfonyl)butanoate | 1.04 mmol, 0.415 g | C(#N)C=1C=C(C=CC1)C#CC=1C=NN(C1)CC[C@](C(=O)OCC)(S(=O)(=O)C)C | C20H21N3O4S
reactant | lithium hydroxide | 10.4 mmol, 0.249 g, 10 eq | [OH-].[Li+]
reactant | HCl | 1M | Cl | ClH
solvent | THF H2O | 20 mL | C1CCOC1.O
product | (2R)-4-{4-[(3-cyanophenyl)ethynyl]-1H-pyrazol-1-yl}-2-methyl-2-(methylsulfonyl)butanoic acid | 0.360 g, 93% yield | C(#N)C=1C=C(C=CC1)C#CC=1C=NN(C1)CC[C@](C(=O)O)(S(=O)(=O)C)C | C18H17N3O4S
